US08222299B2
An Apple Juice Composition to Provide Bioavailable Allicin
First prepare a 1/400 dilution of allyl mercaptan by adding 1.25 ml (a quarter teaspoon) of food grade allyl mercaptan to 500 ml of distilled water.

reactant | allyl mercaptan | C(C=C)S | C3H6S
reactant | water | 500 ml | O | H2O
product | Allicin | C=CCS(SCC=C)=O | C6H10OS2
